US05420151
3-(N-Isopropyl-N-n-propylamino)-5-phenyl-1-oxothiochroman
3-(N-Isopropyl-N-n-propylamino)-5-phenylthiochroman hydrochloride (310 mg, 0.86 mmol) was dissolved in 6 mL chloroform and to the cooled solution (ice-bath) was m-chloroperbenzoic acid (348 mg, 1.72 mmol) added in one portion.

reactant | 3-(N-Isopropyl-N-n-propylamino)-5-phenylthiochroman hydrochloride | 0.86 mmol, 310 mg | Cl.C(C)(C)N(CCC)C1CSC2=CC=CC(=C2C1)C1=CC=CC=C1
reactant | m-chloroperbenzoic acid | 1.72 mmol, 348 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(N-Isopropyl-N-n-propylamino)-5-phenyl-1-oxothiochroman | C(C)(C)N(CCC)C1CS(C2=CC=CC(=C2C1)C1=CC=CC=C1)=O | C21H27NOS
